US09107916B2
B. 2-(5-methoxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile
To a solution of 2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile (200 mg, 1 mmol) and K2CO3 (276 mg, 2 mmol) in DMF was added MeI (213 mg, 1.5 mmol) dropwise at −20° C. The mixture was warmed to 0° C. and stirred for 3 h. Water was added, and the reaction mixture was extracted with EtOAc, then washed with water and brine. The organic phase was dried, concentrated, and purified by prep-HPLC to afford the title compound (50 mg). [M+H] Calc'd for C1H10N4O, 215. Found, 215.

reactant | 2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 1 mmol, 200 mg | OC1=CC(=NN1C1=NC=CC(=C1)C#N)C | C10H8N4O
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 1.5 mmol, 213 mg | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-methoxy-3-methyl-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 50 mg | COC1=CC(=NN1C1=NC=CC(=C1)C#N)C | C11H10N4O
